US04053591
When the requisite 5-O-thioformyl intermediate is prepared by reacting tobramycin with an excess of benzoyl chloroformate and potassium carbonate in aqueous methanol in a manner similar to that described in Preparation 1A(1) followed by reaction of the thereby formed 1,3,2',6',3"-penta-N-benzyloxycarbonyltobramycin with benzoyl chloride in pryidine in the manner of Preparation 1C(1) thence reaction of the resulting 1,3,2',6',3"-penta-N-benzyloxycarbonyl-4',2",4",6"-tetra-O-benzoyltobramycin with N,N-dimethyl-α-chloroformimidinium chloride in methylene chloride in pyridine followed by treatment with dry hydrogen sulfide in a manner similar to that described in Preparation 1D(1) whereby is obtained 1,3,2',6',3"-penta-N-benzloxycarbonyl-5-O-thioformyl-4',2",4",6"-tetra-O-benzoyltobramycin.

reactant | tobramycin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N | C18H37N5O9
reactant | benzoyl chloroformate | ClC(=O)OC(C1=CC=CC=C1)=O | C8H5ClO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
